US08039472B2
To a solution of 3,5-diamino-6-chloro-pyrazine-2-carboxylic acid [8-{4-[6-((R)-2,2-dimethyl-[1,3]-dioxolan-4-ylmethoxy)-naphthalen-2-ylmethoxy]-benzoyl}-1,3,8-triaza-spiro[4.5]dec-(2E)-ylidene]-amide (0.16 g, 0.22 mmol) in MeOH (10 ml) is added SCX-2 resin (˜2 g), the resultant slurry is stirred for 0.5 hours and then the solvent is removed in vacuo. The slurry is loaded onto a column of SCX-2 resin (˜3 g) and eluted with MeOH and then with 2 M NH3 in MeOH. The methanolic ammonia fractions are concentrated in vacuo and the residue is triturated with diethyl ether to obtain 3,5-Diamino-6-chloro-pyrazine-2-carboxylic acid [8-{4-[6-((S)-2,3-dihydroxy-propoxy)-naphthalen-2-ylmethoxy]-benzoyl}-1,3,8-triaza-spiro[4.5]dec-(2E)-ylidene]-amide as yellow solid; [M+H]+ 675

reactant | 3,5-diamino-6-chloro-pyrazine-2-carboxylic acid [8-{4-[6-((R)-2,2-dimethyl-[1,3]-dioxolan-4-ylmethoxy)-naphthalen-2-ylmethoxy]-benzoyl}-1,3,8-triaza-spiro[4.5]dec-(2E)-ylidene]-amide | 0.22 mmol, 0.16 g | CC1(OC[C@H](O1)COC=1C=C2C=CC(=CC2=CC1)COC1=CC=C(C(=O)N2CCC3(CN/C(/N3)=N\C(=O)C3=NC(=C(N=C3N)N)Cl)CC2)C=C1)C | C36H39ClN8O6
solvent | MeOH | 10 ml | CO | CH4O
product | 3,5-Diamino-6-chloro-pyrazine-2-carboxylic acid [8-{4-[6-((S)-2,3-dihydroxy-propoxy)-naphthalen-2-ylmethoxy]-benzoyl}-1,3,8-triaza-spiro[4.5]dec-(2E)-ylidene]-amide | O[C@H](COC=1C=C2C=CC(=CC2=CC1)COC1=CC=C(C(=O)N2CCC3(CN/C(/N3)=N\C(=O)C3=NC(=C(N=C3N)N)Cl)CC2)C=C1)CO | C33H35ClN8O6
